* ADG2108 SPICE Macro-model
* Generic Desc: Single Channel Unbuffered Analog Switch
* Developed by: MPorley / ANALOG
* Revision History: 1.0 (7/2019)
* Copyright 2019 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
* Begin Notes:
* The model will work on Vdd/Vss from 10.8V to 13.2V single supply and +/-4.5V to +/-5.5V dual supply.
* The model provides parametric specifications at +/-5.5V only and is not variable with Vdd and Vss changes. Please see datasheet page 3.
* The model is operational at RESET/VL level from 5V and +/-5V only.
*
* Not Modeled:
* 8x10 array but the spice model is a single channel switch.
*
* Please see Connections Section below.
*
* Parameters modeled include:
* 	On Resistance
*	Ton and Toff
*	Off Isolation
*	Supply Currents: Iss/Idd
*  	Bandwidth
* 	Charge Injection
* Connections
*      1  = VDD
*      2  = VSS
*      3  = GND
*      4  = RESET/VL
*      5  = S1
*      6  = D1
*      7  = IN1
*
.SUBCKT ADG2108 1 2 3 4 5 6 7

.MODEL VON VSWITCH(Von=5 Voff=0.8 Ron=0.001 Roff=1000000000000)
.MODEL VEN VSWITCH(Von=5 Voff=0.8 Ron=180000 Roff=485000)
*.MODEL VRESET VSWITCH(Von=5 Voff=0.8 Ron=2700000 Roff=10000)
.MODEL DCLAMP D(IS=1E-15 IBV=1E-13)

* RESET/VL
*S30 4 187 4 3 VRESET
*C80 187 3 1.5e-011

* IDD/ISS
I1 1 3 0.05e-006

* Configuration: SPST 1:1


** SWITCH 1 **
*
* ESD PROTECTION DIODES
D11 2 6 DCLAMP
D12 6 1 DCLAMP
D13 2 5 DCLAMP
D14 5 1 DCLAMP
*
* OFF ISOLATION
C11 5 6 0.1e-012
*
* CHARGE INJECTION
C12 6 140 0.13e-011
C13 5 140 0.13e-011
*
* CD/CS OFF AND BANDWIDTH
C14 5 3 40e-012
C15 6 3 40e-012
*
* ON RESISTANCE
Ech155 1555 3 VALUE = { IF ((ABS(V(5)))>(ABS(V(184))),V(5),V(6)) }
R155 1555 3 1G
R11 137 6 0.001
S111 136 141 1141 3 VON
Ech111 1141 3 VALUE = { IF (V(1555)<-5,5,0) }
Ech11 141 3 VALUE = { IF (V(1555)<-5,0*(V(1555)--5)+25,0) }
S112 136 146 1146 3 VON
Ech112 1146 3 VALUE = { IF ((V(1555)>=-5) & (V(1555)<=5.5),5,0) }
Ech12 146 3 VALUE = { IF ((V(1555)>=-5) & (V(1555)<=5),(exp(V(1555)--0.25)) + 25,0) }
RIN1	136 3	1G
EOUT1 137 181	POLY(2) (136,3) (180,3) 0 0 0 0 0.999/1000
FCOPY1	3 180 VSENSE1 1
RSENSOR1 180 3	1K
VSENSE1 181 184	0
*
* TON/ TOFF/ BBM
S11 182 184 140 3 VON
S12 143 138 143 3 VEN
Ech14 143 3 VALUE = { IF(V(7)>=2.0 , 5 , 0.8 ) }
eV1 140 3 138 3 1
C16 138 3 1e-012
*
* VOLTAGE SUPPLY REQUIREMENT
S13 5 182 185 3 VON
S14 142 185 142 3 VON
Ech15 142 3 VALUE = { IF((V(2)<=-0.5 & V(2)>=-5.5) & (V(1)<=5.5 & V(1)>=4.5) & V(4)>=5, 5 , 0.01 ) }
S15 139 185 139 3 VON
Ech16 139 3 VALUE = { IF((V(2)>=-0.5 & (V(1)<=13.2 & V(1)>=10.8)) & V(4)>=5, 5 , 0.01 ) }

.ENDS ADG2108
