* ADG5419 SPICE Macro-model
* Generic Desc: High Voltage Latch-Up Proof, Single SPDT Switch
* Developed by: MPorley / ADGT
* Revision History: 2.0 (7/2020) updated Vdd for Single Supply Operation
* 					: 1.0 (1/2018)
* Copyright 2020 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
* Begin Notes:
* The model will work on Vdd/Vss from 9V to 40V single supply and +/-9V to +/-22V dual supply.
* The model provides parametric specifications at +/-22V only and is not variable with Vdd and Vss changes. Please see datasheet page 3.
* The model is operational at RESET/VL level from 3.3V and 15V only.
*
* Not Modeled:
*
* Parameters modeled include:
*	On Resistance
*	Ton and Toff
*	Break-Before-Make
*	Off Isolation
*	Crosstalk
*	Supply Currents: Iss/Idd
*	Bandwidth
*	Charge Injection
* Connections
*      1  = D1
*      2  = S1
*      3  = GND
*      4  = VDD
*      5  = NC
*      6  = IN1
*      7  = VSS
*      8  = S2
*
.SUBCKT ADG5419 1 2 3 4 5 6 7 8

.MODEL VON VSWITCH(Von=5 Voff=0.8 Ron=0.001 Roff=1000000000)
.MODEL VEN VSWITCH(Von=5 Voff=0.8 Ron=280000 Roff=335000)
.MODEL VNE VSWITCH(Von=5 Voff=0.8 Ron=290000 Roff=335000)
.MODEL VRESET VSWITCH(Von=5 Voff=0.8 Ron=2700000 Roff=1000)
.MODEL DCLAMP D(IS=1E-15 IBV=1E-13)


* CROSSTALK
C12X 2 8 0.3E-012

* IDD/ISS
I1 4 3 45E-006
I2 7 3 0.001E-006

* Configuration: SPST 2:2


** SWITCH 1 **
*
* ESD PROTECTION DIODES
D11 7 1 DCLAMP
D12 1 4 DCLAMP
D13 7 2 DCLAMP
D14 2 4 DCLAMP
*
* OFF ISOLATION
C11 2 1 2.3E-012
*
* CHARGE INJECTION
C12 1 140 0.50E-012
C13 2 140 0.50E-012
*
* CD/CS OFF AND BANDWIDTH
C14 2 3 1E-012
C15 1 3 25e-012
*
* ON RESISTANCE
Ech155 1555 3 VALUE = { IF ((ABS(V(2)))>(ABS(V(184))),V(2),V(1)) }
R155 1555 3 1G
R11 137 1 0.001
S111 136 141 1141 3 VON
Ech111 1141 3 VALUE = { IF (V(1555)<-14,5,0) }
Ech11 141 3 VALUE = { IF (V(1555)<-14,0.0625*(V(1555)--14)+14.5,0) }
S112 136 146 1146 3 VON
Ech112 1146 3 VALUE = { IF ((V(1555)>=-14) & (V(1555)<=14),5,0) }
Ech12 146 3 VALUE = { IF ((V(1555)>=-14) & (V(1555)<=14),((14.5-10)/((-14--0.368676545856137)*(-14--0.368676545856137)))*(V(1555)--0.368676545856137)*(V(1555)--0.368676545856137) + 10,0) }
S113 136 144 1144 3 VON
Ech113 1144 3 VALUE = { IF (V(1555)>14,5,0) }
Ech13 144 3 VALUE = { IF (V(1555)>14,-2.49999999999999E-02*(V(1555)-14)+15,0) }
RIN1	136 3	1G
EOUT1 137 181	POLY(2) (136,3) (180,3) 0 0 0 0 0.999/1000
FCOPY1	3 180 VSENSE1 1
RSENSOR1 180 3	1K
VSENSE1 181 184	0
*
* TON/ TOFF/ BBM
S11 182 184 140 3 VON
S12 143 138 143 3 VEN
Ech14 143 3 VALUE = { IF(V(6)>=2.0, 5 , 0.8 ) }
eV1 140 3 138 3 1
C16 138 3 1e-012
*
* VOLTAGE SUPPLY REQUIREMENT
S13 2 182 185 3 VON
S14 142 185 142 3 VON
Ech15 142 3 VALUE = { IF((V(7)<=-0.5 & V(7)>=-22) & (V(4)<=22 & V(4)>=9), 5 , 0.01 ) }
S15 139 185 139 3 VON
Ech16 139 3 VALUE = { IF((V(7)>=-0.5 & (V(4)<=40 & V(4)>=9)), 5 , 0.01 ) }


** SWITCH 2 **
*
* ESD PROTECTION DIODES
D23 7 8 DCLAMP
D24 8 4 DCLAMP
*
* OFF ISOLATION
C21 8 1 2.3E-012
*
* CHARGE INJECTION
C23 8 240 0.50E-012
*
* CD/CS OFF AND BANDWIDTH
C24 8 3 1E-012
*
* ON RESISTANCE
Ech255 2555 3 VALUE = { IF ((ABS(V(8)))>(ABS(V(284))),V(8),V(1)) }
R255 2555 3 1G
R21 237 1 0.001
S221 236 241 2241 3 VON
Ech221 2241 3 VALUE = { IF (V(2555)<-14,5,0) }
Ech21 241 3 VALUE = { IF (V(2555)<-14,0.0625*(V(2555)--14)+14.5,0) }
S222 236 246 2246 3 VON
Ech222 2246 3 VALUE = { IF ((V(2555)>=-14) & (V(2555)<=14),5,0) }
Ech22 246 3 VALUE = { IF ((V(2555)>=-14) & (V(2555)<=14),((14.5-10)/((-14--0.368676545856137)*(-14--0.368676545856137)))*(V(2555)--0.368676545856137)*(V(2555)--0.368676545856137) + 10,0) }
S223 236 244 2244 3 VON
Ech223 2244 3 VALUE = { IF (V(2555)>14,5,0) }
Ech23 244 3 VALUE = { IF (V(2555)>14,-2.49999999999999E-02*(V(2555)-14)+15,0) }
RIN2	236 3	1G
EOUT2 237 281	POLY(2) (236,3) (280,3) 0 0 0 0 0.999/1000
FCOPY2	3 280 VSENSE2 1
RSENSOR2 280 3	1K
VSENSE2 281 284	0
*
* TON/ TOFF/ BBM
S21 282 284 240 3 VON
S22 243 238 243 3 VNE
Ech24 243 3 VALUE = { IF(V(6)<2.0, 5 , 0.8 ) }
eV2 240 3 238 3 1
C26 238 3 1e-012
*
* VOLTAGE SUPPLY REQUIREMENT
S23 8 282 285 3 VON
S24 242 285 242 3 VON
Ech25 242 3 VALUE = { IF((V(7)<=-0.5 & V(7)>=-22) & (V(4)<=22 & V(4)>=9), 5 , 0.01 ) }
S25 239 285 239 3 VON
Ech26 239 3 VALUE = { IF((V(7)>=-0.5 & (V(4)<=40 & V(4)>=9)), 5 , 0.01 ) }

.ENDS ADG5419
